US04018794
A mixture of 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid (2.7 g), 98% aqueous hydrazine hydrate (4.5 ml), potassium hydroxide (1.5 g) in water (3.0 ml) and di-ethylene glycol (20 ml) is stirred at about 130° C. for 1 hour. The temperature is then slowly raised to 215° C. allowing volatile material to distil off. The stirring at 215° C. is continued for a further 2-3 hours until the nitrogen evolution has ceased. After cooling and dilution with water (30 ml), the resulting solution is acidified with conc. hydrochloric acid (3 ml). The resulting precipitate is collected by filtration and washed with water. After drying and recrystallization twice from 96% ethanol, 5-amino-4-benzyl-3-benzyloxybenzoic acid is obtained with a melting point of 207.5° -209.5° C.

reactant | 4-benzoyl-3-benzyloxy-5-nitrobenzoic acid | 2.7 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])OCC1=CC=CC=C1 | C21H15NO6
reactant | hydrazine hydrate | 4.5 ml | O.NN
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
solvent | water | 3.0 ml | O | H2O
solvent | di-ethylene glycol | 20 ml | C(COCCO)O | C4H10O3
product | 5-amino-4-benzyl-3-benzyloxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C21H19NO3
